US07566736B2
A suspension of 4 g (19.49 mmol) of methyl 6-methoxy-2-indolecarboxylate in 60 ml of 28% aqueous ammonia is heated at 50° C. for 14 h in an autoclave. After filtration of the mixture over sintered glass, the white solid obtained is washed with water and dried, and is then added to a hot mixture of ethyl acetate/cyclohexane (100 ml/10 ml). The medium is cooled in a water/ice bath and filtered over sintered glass, to give 1.05 g of 6-methoxy-1H-indole-2-carboxamide in the form of a white solid.

reactant | methyl 6-methoxy-2-indolecarboxylate | 19.49 mmol, 4 g | COC1=CC=C2C=C(NC2=C1)C(=O)OC | C11H11NO3
reactant | ammonia | 60 ml | N | H3N
product | 6-methoxy-1H-indole-2-carboxamide | 1.05 g | COC1=CC=C2C=C(NC2=C1)C(=O)N | C10H10N2O2
